US07700589B2
48e) ethyl (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate
A mixture of 3.7 g (14.5 mmol) (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid and 150 mL EtOH was combined with 50 mL ethanolic HCl with stirring. The reaction mixture was stirred for 2 h, evaporated down under reduced pressure and the residue was taken up in DCM. The organic solution washed with 15% K2CO3 solution, dried and evaporated down under reduced pressure.

reactant | (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid | 14.5 mmol, 3.7 g | N[C@@H](C(=O)O)CC1=CC=2CCCCC2C=C1 | C13H17NO2
reactant | HCl | 50 mL | Cl | ClH
reactant | EtOH | 150 mL | CCO | C2H6O
product | ethyl (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | N[C@@H](C(=O)OCC)CC1=CC=2CCCCC2C=C1 | C15H21NO2
